US07323475B2
d) 1-Chloro-4-hydroxy-7-iodo-isoquinoline-3-carboxylic acid butyl ester
0.215 g of 4-hydroxy-7-iodo-1-oxo-1,2-dihydro-isoquinoline-3-carboxylic acid butyl ester were added to 5 ml of POCl3 at room temperature. The mixture was refluxed for 3 h and POCl3 was removed under vacuum. The residue was dissolved in ethyl acetate and the solution was washed with satd. aqueous sodium bicarbonate, dried (MgSO4), filtered, and concentrated to give 0.205 g of a while solid: Proton NMR (200 MHz, chloroform-d) δ 11.91 (s, 1H), 8.67 (m, 1H), 8.10 (m, 2H), 4.49 (t, J=7 Hz, 2H), 1.95-1.75 (m, 2H), 1.60-1.39 (m, 2H), 1.00 (t, J=7 Hz, 3H).

reactant | 4-hydroxy-7-iodo-1-oxo-1,2-dihydro-isoquinoline-3-carboxylic acid butyl ester | 0.215 g | C(CCC)OC(=O)C=1NC(C2=CC(=CC=C2C1O)I)=O | C14H14INO4
reactant | POCl3 | 5 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 1-Chloro-4-hydroxy-7-iodo-isoquinoline-3-carboxylic acid butyl ester | C(CCC)OC(=O)C=1N=C(C2=CC(=CC=C2C1O)I)Cl | C14H13ClINO3
